US06323235B1
3-((3,3-diphenylpropyloxy)methyl)-7-methoxybenzofuran
3,3-diphenyl-1-propanol (550 mg) was dissolved in DMF (5 ml) and the obtained solution was cooled to 0° C. To this solution, potassium t-butoxide (291 mg) was added and the solution was stirred at 0° C. for 10 minutes. To the reaction solution, 3-chloromethyl-7-methoxybenzofuran (339 mg) solution in DMF (4 ml) was added dropwise and the resulting solution was stirred at 0° C. for 30 minutes. After neutralizing the reaction solution with 1N hydrochloric acid, the solution was poured into water layer (50 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=9/1) using silica gel to obtain the desired compound (547 mg, yield: 85%).

reactant | 3,3-diphenyl-1-propanol | 550 mg | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
reactant | potassium t-butoxide | 291 mg | CC(C)([O-])C.[K+]
reactant | 3-chloromethyl-7-methoxybenzofuran | 339 mg | ClCC1=COC2=C1C=CC=C2OC | C10H9ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-((3,3-diphenylpropyloxy)methyl)-7-methoxybenzofuran | 547 mg, yield: 85% | C1(=CC=CC=C1)C(CCOCC1=COC2=C1C=CC=C2OC)C2=CC=CC=C2 | C25H24O3
